US09056832B2
A 5 ml sealed microwave tube was charged with 4-chloro-6-[3-(4-fluoro-phenoxy)-phenyl]-pyridine-2-carboxylic acid amide (0.267 g, 0.78 mmol), vinyl boronic acid pinacol ester (0.180 g, 1.17 mmol, Aldrich) in three equivalents of TBAF/THF. The mixture was heated to 120° C. by microwave for 45 minutes. The mixture was chromatographed without workup by combiflash using a 40-gram silica column with a gradient of methanol (30% max) in chloroform to provide 0.130 g of 6-[3-(4-fluoro-phenoxy)-phenyl]-4-vinyl-pyridine-2-carboxylic acid amide as a clear oil in good purity (50% yield).

reactant | 4-chloro-6-[3-(4-fluoro-phenoxy)-phenyl]-pyridine-2-carboxylic acid amide | 0.78 mmol, 0.267 g | ClC1=CC(=NC(=C1)C1=CC(=CC=C1)OC1=CC=C(C=C1)F)C(=O)N | C18H12ClFN2O2
reactant | vinyl boronic acid pinacol ester | 1.17 mmol, 0.180 g | C(=C)B1OC(C)(C)C(C)(C)O1 | C8H15BO2
reactant | TBAF THF | three equivalents | CCCC[N+](CCCC)(CCCC)CCCC.[F-].C1CCOC1
product | 6-[3-(4-fluoro-phenoxy)-phenyl]-4-vinyl-pyridine-2-carboxylic acid amide | 0.130 g, 50% yield | FC1=CC=C(OC=2C=C(C=CC2)C2=CC(=CC(=N2)C(=O)N)C=C)C=C1 | C20H15FN2O2
